### ISSUE TITLE
Tactic: `weaken_own` — collapse `regIs → regOwn` / `memIs → memOwn` cascades

### ISSUE THREAD

**Issue by pirapira** [Verified-zkEVM/evm-asm#4794]
## Problem

When an opcode's stack-level spec exposes scratch registers and clobbered stack cells as opaque-ownership atoms (`regOwn r`, `memOwn a`), the bridging proof is a verbose `iterate` cascade.

Concrete sites today (grep on `main`):

- `EvmAsm/Evm64/Multiply/Spec.lean:64-79` — `mul_stack_weaken`:
  ```lean
  iterate 5 apply sepConj_mono (regIs_implies_regOwn _)
  iterate 3 apply sepConj_mono memIs_implies_memOwn
  exact sepConj_mono_left memIs_implies_memOwn
  ```
- `EvmAsm/Evm64/DivMod/Spec/Base.lean` (1 site, `iterate 7 …`).
- `EvmAsm/Evm64/DivMod/Spec/Dispatcher.lean` (2 sites, both `iterate 7 …`).
- `EvmAsm/Evm64/DivMod/Spec/CallSkip.lean` (2 sites, both `iterate 7 …`).

In every case the pattern is "for each `regIs r v` atom on the LHS that has a matching `regOwn r` slot on the RHS, weaken once; same for `memIs` / `memOwn`; finish with a permutation."

Total `regIs_implies_regOwn` / `memIs_implies_memOwn` uses across the repo: **67**.

## Proposal

A tactic `weaken_own h` (or `xweaken_own`) in `EvmAsm/Rv64/Tactics/WeakenOwn.lean` that:

1. Inspects the goal's RHS for `regOwn r` / `memOwn a` atoms.
2. For each, matches against the LHS's `regIs r _` / `memIs a _` atoms by `isDefEq` on the register / address argument.
3. Applies `sepConj_mono` + `regIs_implies_regOwn _` / `memIs_implies_memOwn` per match.
4. Finishes with `xperm_hyp` to handle any reorder between LHS and RHS atom order.

API sketch:

```lean
-- Before
private theorem mul_stack_weaken (sp : Word) (a b : EvmWord)
    {v5 v6 v7 v10 v11 sp_v sp8_v sp16_v sp24_v : Word} :
    ∀ h,
      ((.x12 ↦ᵣ (sp + 32)) ** (.x5 ↦ᵣ v5) ** … **
       evmWordIs (sp + 32) (a * b)) h →
      evmMulStackPost sp a b h := by
  intro h hp
  delta evmMulStackPost
  refine sepConj_mono_right ?_ h hp
  iterate 5 apply sepConj_mono (regIs_implies_regOwn _)
  iterate 3 apply sepConj_mono memIs_implies_memOwn
  exact sepConj_mono_left memIs_implies_memOwn

-- After
private theorem mul_stack_weaken … := by
  intro h hp
  delta evmMulStackPost
  weaken_own hp
```

## Why it's cheap to build

It's the symmetric sibling of `xcancel`: same skeleton (`isDefEq`-driven atom matching), different leaf rule (`regIs_implies_regOwn` instead of cancellation). Reference: `EvmAsm/Rv64/Tactics/XCancel.lean`, ~150 lines. Expected size: ~60 lines.

## Acceptance

1. New file `EvmAsm/Rv64/Tactics/WeakenOwn.lean` registered via `Rv64.lean` umbrella.
2. Migrate `Multiply/Spec.lean`'s `mul_stack_weaken` as proof-of-value in the same PR.
3. Follow-up PRs migrate the four DivMod sites (`Spec/{Base,Dispatcher,CallSkip}.lean`).
4. No `lake build` regression on the migrated modules.

## Expected outcome

- ~30 LoC removed from current sites.
- Every future opcode that exposes a `regOwn`/`memOwn` interface drops the `iterate` cascade.
- Removes the need for per-opcode `private theorem <op>_stack_weaken` shims (currently 4 across `Multiply`, `DivMod/{Base,Dispatcher,CallSkip}`).

---

— Claude Code
